US05594014
A. (R)-1-(N-Benzyloxycarbonylpyrrolidin-2-yl)-3-(N-(2-bromo-4-(4-benzyl-1.3-thiazol-2-yl)phenyl)-N-trifluoroacetylamino)propene
4-(4-Benzyl-1,3-thiazol-2-yl)-2-bromo-1-trifluoroacetylaminobenzene and (R)-1-(N-benzyloxycarbonylpyrrolidin-2-yl)-3-hydroxypropene were used. Chromatography using elution with a 1-5% either gradient in methylene chloride afforded the title compound (97%) as a white foam: FAB LRMS (m/z, relative intensity) 686 (MH2+, 100), 685 (MH+, 60), 684 (M+, 90), 640 (23), 578 (15), 441 (17), 371 (20); FAB HRMS calculated for [C33H29BrF3N3O3S·H]+ [with 78Br and 32S] 664.1145, found 684.1157.

reactant | 4-(4-Benzyl-1,3-thiazol-2-yl)-2-bromo-1-trifluoroacetylaminobenzene | C(C1=CC=CC=C1)C=1N=C(SC1)C1=CC(=C(C=C1)NC(C(F)(F)F)=O)Br | C18H12BrF3N2OS
reactant | (R)-1-(N-benzyloxycarbonylpyrrolidin-2-yl)-3-hydroxypropene | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)C=CCO | C15H19NO3
product | (R)-1-(N-Benzyloxycarbonylpyrrolidin-2-yl)-3-(N-(2-bromo-4-(4-benzyl-1.3-thiazol-2-yl)phenyl)-N-trifluoroacetylamino)propene | 97% | C(C1=CC=CC=C1)OC(=O)N1[C@H](CCC1)C=CCN(C(C(F)(F)F)=O)C1=C(C=C(C=C1)C=1SC=C(N1)CC1=CC=CC=C1)Br | C33H29BrF3N3O3S
